6
R0100 1 0 100
R0203 2 3 1
L0204 2 4 500E-6
C0500 5 0 100E-9
C0100 1 0 10E-6
N0501 5 1 -1000 0 0 0 0.6 1e-3 2 10
K0204 2 4 5 0 -0.1
$0400 4 0 6 0 1
V0600 6 0 PULSE 0 2 0 1E-6 1E-6 100E-6 200E-6 200
V0300 3 0 DC 180
.TRAN 10E-4 10E-8 TRAP 1
